US07482356B2
Preparation of 2-(2-Ethoxycarbonyl-acetyl)-pyrazolidine-1-carboxylic acid benzyl ester (10):
To a solution of sodium hydroxide (93.0 mL of 1N solution, 93.0 mmol) is added CH2Cl2 (280 mL) followed by pyrazolidine-1-carboxylic acid benzyl ester (15.0 g, 61.8 mmol) and then ethyl-3-chloro-3-oxopropionate (11.1 mL, 86.5 mmol). After stirring the biphasic mixture vigorously for 3 hours at room temperature, the mixture is quenched by pouring into aqueous saturated NH4Cl. The organic phase is dried (MgSO4), filtered and concentrated in vacuo. The crude residue is purified over silica (10% EtOAc/hexanes) to afford 15.5 g (78% yield) of the desired product. 1H NMR (300 MHz, CDCl3) δ 7.38 (s, 5H), 5.23 (dd, J=11.8, 8.4 Hz, 2H), 4.19-4.07 (m, 4H), 3.65 (d, J=15.9 Hz, 1H), 3.31 (d, J=15.9 Hz, 1H), 3.20-3.15 (m, 2H), 2.20-2.04 (m, 2H), 1.26 (t, J=7.2 Hz, 3H); ESI+ MS: m/z (rel intensity) 321.0 (100, M++H).

reactant | sodium hydroxide | 93.0 mmol, 1N, 93.0 mL | [OH-].[Na+]
reactant | pyrazolidine-1-carboxylic acid benzyl ester | 61.8 mmol, 15.0 g | C(C1=CC=CC=C1)OC(=O)N1NCCC1 | C11H14N2O2
reactant | ethyl-3-chloro-3-oxopropionate | 86.5 mmol, 11.1 mL | C(C)OC(CC(=O)Cl)=O | C5H7ClO3
solvent | CH2Cl2 | 280 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-Ethoxycarbonyl-acetyl)-pyrazolidine-1-carboxylic acid benzyl ester | 15.5 g, 78% yield | C(C1=CC=CC=C1)OC(=O)N1N(CCC1)C(CC(=O)OCC)=O | C16H20N2O5
